* thresVolt.hsp

* Written 3/11/03  Genevieve_Breed@hmc.edu
* This spice deck finds the threshold voltage of a gate


***********************************************************************
* Set supply and library
***********************************************************************
* The characterization script replaces !SUP! with the
* user-specified supply and !LIB! with the user-specified
* library.

.param Sup=!SUP!        * Must set before calling .lib
.temp !TEMP!            * Override temperature by setting it before .lib
.protect                * Don't print the contents of library
.lib '!LIB!' !CORNER!   * Load the library for process corner
.unprotect              * Resume printing SPICE deck
.param Supply=!VOLT!    * Override voltage by setting it after .lib
.opt scale=!LAMBDA!     * Set lambda
.option accurate

* Save results of simulation for viewing
.options post

***********************************************************************
* Define power supply
***********************************************************************

.global Vdd 	Gnd
Vdd     Vdd     Gnd  'Supply'
Vds	    1   Gnd .1	    
Vdds	2   Gnd .1	    
Vgs 	3   Gnd 0	
Vggs 	4   3   0.001

***********************************************************************
* Top level simulation netlist
***********************************************************************
 m1 1 3  Gnd  Gnd nmos l=2 w=16
 m2 2 4  Gnd  Gnd nmos l=2 w=16

Hxxx 5 Gnd  POLY(2) vds vdds 0 '-1' 1 


***********************************************************************
* Stimulus
***********************************************************************
.dc Vgs 0 'Supply-.001' .001 


***********************************************************************
* Measurements
***********************************************************************
.measure out MAX I(Hxxx)

***********************************************************************
* End of Deck
***********************************************************************
.end
