* thresVoltPointp.hsp

* Written 4/1/03  Genevieve_Breed@hmc.edu
* This spice deck finds the current of a gate at a specific voltage

***********************************************************************
* Set supply and library
***********************************************************************
* The characterization script replaces !SUP! with the
* user-specified supply and !LIB! with the user-specified
* library.

.param Sup=!SUP!        * Must set before calling .lib
.temp !TEMP!            * Override temperature by setting it before .lib
.protect                * Don't print the contents of library
.lib '!LIB!' !CORNER!   * Load the library for process corner
.unprotect              * Resume printing SPICE deck
.param Supply=!VOLT!    * Override voltage by setting it after .lib
.opt scale=!LAMBDA!     * Set lambda
.option accurate

* Save results of simulation for viewing
.options post
*.op

***********************************************************************
* Define power supply
***********************************************************************

.global Vdd 	Gnd
Vdd     Vdd Gnd 'Supply'
Vds	    Vdd   1 .1	        
Vgs 	Vdd   2 !VGS!	

***********************************************************************
* Top level simulation netlist
***********************************************************************
 m1 1 2  Vdd  Vdd pmos l=2 w=16

***********************************************************************
* Stimulus
***********************************************************************
.dc Vgs 0 'Supply' .001

***********************************************************************
* Measurements
***********************************************************************
.measure current FIND I(Vds) At =!VGS!


***********************************************************************
* End of Deck
***********************************************************************
.end

